US06632919B1
(5-Methyl-1,8-naphthyridin-2(1H)-on-3-yl)acetic Acid
To a precooled solution of N,N-diisopropylamine (6.2 mL, 0.044 mol) in diethyl ether (125 mL, dried over molecular seives) was added BuLi (2.5 M in hexanes) (17.8 mL, 0,044 mol) and the resulting solution was stirred at rt. for 15 minutes whereafter di-tert-butylsuccinate (5.35 g, 23 mmol) dissolved in diethyl ether (10 mL, dried over molecular seives) was slowly added. After 30 min at −78° C., 3-formyl-4-methyl-2-(pivaloylamino)-pyridine (4.65 g, 21.0 mmol) dissolved in THF (10 mL, LAB-SCAN C2520, dried over molecular seives) was slowly added, and stirring at this temperature was continued for 30 min. The solution was allowed to warm to rt. and poored into a solution of NH4Cl (sat., aqueous, 100 mL). The aqueous phase was extracted three times with diethylether (3×50 mL) and the organic extracts washed with water (50 mL) and brine (50 mL), dried over MgSO4 and evaporated in vacuo. The crude product was recrystallized from ethyl acetate/hexane to yield the diastereomeric mixture which was used as such after drying in vacuo. The diastereomeric mixture was dissolved in HCl (3M, aqueous, 50 mL) the solution was stirred under reflux for 3.5 h, cooled to rt. and washed with diethyl ether (2×50 mL), neutralised with K2CO3 and again washed with chloroform (3×50 mL). After precipitation upon cooling 1.39 g (37%) of the title compound was obtained (mp >250° C.). 1H NMR (D2O/NaOD): δ 8.25 (d, 4.9 Hz, 1H), 7.71 (s, 1H), 6.84 (d, 4.9 Hz, 1H), 2.36 (s, 2H), 1.05 (s, 3H). 13C NMR (D2O/NaOD): δ 180.30, 171.68, 155.44, 148.84, 146.04, 132.61, 127.08, 117.60, 116.21, 27.22, 16.98. FAB+ MS (m/z): 219.10 (M+H+, calc. for C11H10N2O3+H+ 219.0770).

reactant | N,N-diisopropylamine | 0.044 mol, 6.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | BuLi | 0,044 mol, 2.5 M, 17.8 mL | [Li]CCCC
reactant | di-tert-butylsuccinate | 23 mmol, 5.35 g | C(C)(C)(C)OC(CCC(=O)OC(C)(C)C)=O | C12H22O4
reactant | 3-formyl-4-methyl-2-(pivaloylamino)-pyridine | 21.0 mmol, 4.65 g | C(=O)C=1C(=NC=CC1C)NC(C(C)(C)C)=O | C12H16N2O2
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | diethyl ether | 125 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (5-Methyl-1,8-naphthyridin-2(1H)-on-3-yl)acetic Acid | CC1=C2C=C(C(NC2=NC=C1)=O)CC(=O)O | C11H10N2O3
